US08211908B2
To 0.50 g of tert-butyl (2,3-dihydro-1,4-benzodioxin-6-ylmethyl(1-(2-(7-methoxy-2-oxo-1,8-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)carbamate, 15 mL of a 4 mol/L hydrogen chloride/ethyl acetate solution was added, and the mixture was stirred at room temperature for 43 hours. The solvent was distilled off under reduced pressure, methanol was added to the resultant residue, and the solvent was distilled off under reduced pressure. Then, ethyl acetate was added to the resultant residue, and the solid was filtered off to obtain 0.41 g of 1-(2-(4-((2,3-dihydro-1,4-benzodioxin-6-ylmethyl)amino)piperidin-1-yl)ethyl)-7-methoxy-1,8-naphthyridin-2(1H)-one hydrochloride as a light yellow solid.

reactant | 2,3-dihydro-1,4-benzodioxin-6-ylmethyl(1-(2-(7-methoxy-2-oxo-1,8-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)carbamate | O1CCOC2=C1C=CC(=C2)COC(NC2CCN(CC2)CCN2C(C=CC1=CC=C(N=C21)OC)=O)=O | C26H30N4O6
reactant | hydrogen chloride ethyl acetate | 4 mol/L | Cl.C(C)(=O)OCC
product | 1-(2-(4-((2,3-dihydro-1,4-benzodioxin-6-ylmethyl)amino)piperidin-1-yl)ethyl)-7-methoxy-1,8-naphthyridin-2(1H)-one hydrochloride | 0.41 g | Cl.O1CCOC2=C1C=CC(=C2)CNC2CCN(CC2)CCN2C(C=CC1=CC=C(N=C21)OC)=O | InChI=1S/C25H30N4O4.ClH/c1-31-23-6-3-19-4-7-24(30)29(25(19)27-23)13-12-28-10-8-20(9-11-28)26-17-18-2-5-21-22(16-18)33-15-14-32-21;/h2-7,16,20,26H,8-15,17H2,1H3;1H
